US06060498
The synthesis of the present compound can be carried out according to the process disclosed in JP-A-7-165708. For example, the present compound can be synthesized as follows. After dissolving 264 mg (2 mmol) of 7-amino-1H-indole in pyridine, 767 mg (3 mmol) of 4-sulfamoylbenzenesulfonyl chloride is added thereto under stirring at room temperature. After the mixture is stirred overnight at room temperature, the solvent is evaporated under reduced pressure. Ethyl acetate and 0.2 N hydrochloric acid are added to the resulting residue. The organic layer is separated, washed with water, and dried over magnesium sulfate, followed by evaporation of the solvent. The resulting residue is purified by silica gel column chromatography to give 445 mg of N-(1H-indol-7-yl)-4-sulfamoylbenzenesulfonamide.

reactant | 7-amino-1H-indole | 2 mmol, 264 mg | NC=1C=CC=C2C=CNC12 | C8H8N2
reactant | 4-sulfamoylbenzenesulfonyl chloride | 3 mmol, 767 mg | S(N)(=O)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C6H6ClNO4S2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(1H-indol-7-yl)-4-sulfamoylbenzenesulfonamide | 445 mg | N1C=CC2=CC=CC(=C12)NS(=O)(=O)C1=CC=C(C=C1)S(N)(=O)=O | C14H13N3O4S2
